US09382188B2
B) 3-cyclopropyl-3-(6-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(6-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoate (233 mg) in THF (2.0 mL) and methanol (1.0 mL) was added 1N aqueous sodium hydroxide solution (2.0 mL), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1N hydrochloric acid (2.0 mL), and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The organic layer was filtered through silica gel and the solvent was evaporated under reduced pressure to give the title compound (214 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(6-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoate | 233 mg | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H36FN3O4
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2.0 mL | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-cyclopropyl-3-(6-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoic acid | 214 mg | C1(CC1)C(CC(=O)O)C1=NC=NC(=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C28H32FN3O4
